US08471005B2
[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-trifluoromethyl-3H-benzimidazol-5-yl)-amine
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (75 mg, 0.22 mmol) was coupled with 2-trifluoromethyl-3H-benzimidazol-5-ylamine (78 mg, 0.38 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 34 mg (26%) of brown powder; LC/MS: 473 (M+H); HPLC: 95% pure, RT=2.99 min; 1H NMR: (DMSO, δ) 9.73 (s, 1H), 9.09 (s, 1H), 8.51 (d, J=8.4, 2H), 8.40 (s, 1H), 8.13 (br s, 1H), 8.04 (d, J=8.4, 2H), 7.71 (m, 2H), 7.38 (d, J=4.9, 1H), 7.03 (d, J=4.9, 1H), 3.28 (s, 3H).

reactant | 2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.22 mmol, 75 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)S(=O)(=O)C | C14H13N3O3S2
reactant | 2-trifluoromethyl-3H-benzimidazol-5-ylamine | 0.38 mmol, 78 mg | FC(C=1NC2=C(N1)C=CC(=C2)N)(F)F | C8H6F3N3
product | [7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-trifluoromethyl-3H-benzimidazol-5-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=C(N1)C(F)(F)F)C=C2 | C21H15F3N6O2S
